US05130313
1-(3-Chloropropyl)-4-phenyl-1,2,4,6-tetrahydropyridine can be prepared as follows: a solution of 1-bromo-3-chloropropane (6 cc) and 4-phenyl-1,2,3,6-tetrahydropyridine (5.1 g) in acetonitrile (60 cc) is stirred at 25° C. for 20 hours with potassium carbonate (97 g). The mixture is filtered and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.2-0.063-mm particle size, 4-cm diameter, 40-cm height) and eluted with a mixture of cyclohexane and ethyl acetate (50--50 by volume), 250-cc fractions being collected. Fractions 7 to 13 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine (5 g) in the form of a yellow oil.

reactant | 1-(3-Chloropropyl)-4-phenyl-1,2,4,6-tetrahydropyridine | ClCCCN1CCC(CC1)C1=CC=CC=C1 | C14H20ClN
reactant | 1-bromo-3-chloropropane | 6 cc | BrCCCCl | C3H6BrCl
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 5.1 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | potassium carbonate | 97 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 60 cc | C(C)#N | C2H3N
product | 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine | 5 g | ClCCCN1CCC(=CC1)C1=CC=CC=C1 | C14H18ClN
